US09126981B2
Synthesis of 2,2-diethoxy-N-(pyridin-2-ylmethyl)ethanamine (Compound IX-16)
According to the procedure described in the synthesis method of Compound IX-1, 2-bromo-1,1-diethoxyethane (34.6 ml, 230 mmol) was reacted with 2-picolylamine (50 g, 460 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: ethyl acetate:ethanol=10:1) to obtain the title compound (34.0 g, 65%)

reactant | 2-bromo-1,1-diethoxyethane | 230 mmol, 34.6 ml | BrCC(OCC)OCC | C6H13BrO2
reactant | 2-picolylamine | 460 mmol, 50 g | N1=C(C=CC=C1)CN | C6H8N2
product | 2,2-diethoxy-N-(pyridin-2-ylmethyl)ethanamine | 34.0 g, 65% | C(C)OC(CNCC1=NC=CC=C1)OCC | C12H20N2O2
